US07700641B2
C. Synthesis of 1-(diphenylmethyl)-3-(6-hydroxy-3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 26C, and making non-critical variations to replace 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one with 1-(diphenylmethyl)-3-(6-hydroxy-3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained: MS (ES+) m/z 492.5 (M+1)

reactant | 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C1=CC2=C(CCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO3
reactant | 1-(diphenylmethyl)-3-(6-hydroxy-3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C=1C(=CC2=C(C(CO2)(C)C)C1)O)=O)C1=CC=CC=C1 | C31H27NO3
product | 1-(diphenylmethyl)-3-(6-hydroxy-3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(CO)C=1C(=CC2=C(C(CO2)(C)C)C1)O)=O)C1=CC=CC=C1 | C32H29NO4
